US04096100
Preparation of 1,5-bis(p-toluene sulfonyl) carbohydrazide
190.5 g (1.0 mole) p-toluene sulfonyl chloride, 45 g (0.5 mole) carbohydrazide, 84 g (1.0 mole) sodium bicarbonate and 1000 ml methanol were placed in a 2 liter flask. The mixture was stirred and heated to reflux (65° C) for 90 minutes. Carbon dioxide evolution was complete at this point. The solid product and sodium chloride were filtered off. The material was suspended in water to dissolve the sodium chloride and the residual solid product was filtered off, washed well with water, and dried at 60° C. Yield: 139 g -- Dec. temp. 232° C.

reactant | p-toluene sulfonyl chloride | 1.0 mole, 190.5 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | carbohydrazide | 0.5 mole, 45 g | NNC(=O)NN | CH6N4O
reactant | sodium bicarbonate | 1.0 mole, 84 g | C([O-])(O)=O.[Na+]
reactant | Carbon dioxide | C(=O)=O | CO2
solvent | methanol | 1000 ml | CO | CH4O
product | 1,5-bis(p-toluene sulfonyl) carbohydrazide | C1(=CC=C(C=C1)S(=O)(=O)NNC(=O)NNS(=O)(=O)C1=CC=C(C=C1)C)C | C15H18N4O5S2
